* Z:\home\maximilian\Etching\ltspice\uv_led_driver\driver_option1.asc
XU1 VSIG N005 V+ 0 N006 LM324
V1 V+ 0 18V
Q1 N004 N006 N005 0 2N3904
V2 VSIG 0
D1 N003 N004 LXHL-BW02
R1 N005 0 10R
D2 N002 N003 LXHL-BW02
D3 N001 N002 LXHL-BW02
D4 V+ N001 LXHL-BW02
.model D D
.lib C:\users\maximilian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\maximilian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.include LM324.txt
.dc V2 0mV 300mV
.backanno
.end
